US06486318B1
Alpha picoline 1.0 kg was slowly added to concentrated solution of sulphuric acid under agitation. After the addition was completed the mass temperature was raised to 180° C. and 6.0 kg of 70% Nitric acid was added and the temperature was maintained at the same level for 20 hours. After the reaction was over mass was cooled to ambient temperature and three times water was added. pH of the reaction mass was adjusted to 5.0. Zinc sulphate 600 grams dissolved in water was added slowly and the whole mass was stirred till a white precipitate appeared. The precipitate was filtered washed and dried to give 800 grams of zinc picolinate having 21% Zinc content (Desired limit 19-22%)

reactant | Alpha picoline | 1.0 kg | N1=C(C=CC=C1)C | C6H7N
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Nitric acid | 6.0 kg | [N+](=O)(O)[O-] | HNO3
reactant | Zinc sulphate | 600 grams | S(=O)(=O)([O-])[O-].[Zn+2]
reactant | water | O | H2O
product | zinc picolinate | 800 grams, 21% | N1=C(C=CC=C1)C(=O)[O-].[Zn+2].N1=C(C=CC=C1)C(=O)[O-] | InChI=1S/2C6H5NO2.Zn/c2*8-6(9)5-3-1-2-4-7-5;/h2*1-4H,(H,8,9);/q;;+2/p-2
